US04117168
Preparation of Bis(p-methoxyphenyl)methyl methyl sulfoxide (V)
A 50 ml. chloroform solution of 0.014 mole (2.4 grams) of m-chloroperbenzoic acid was slowly added to a stirred, cooled (0° C.), 25 ml. chloroform solution of 3.4 grams (0.0125 mole) of bis(p-methoxyphenyl)methyl methyl sulfide. The solution was kept at 0° C. for 2.5 hours, then warmed to an ambient temperature and maintained there for 2.5 hours, washed with 100 ml. of 10 percent aqueous potassium carbonate solution, 100 ml. of water and dried with Na2SO4. The solvent was removed to give 3.8 grams (105 percent yield) of a pale yellow viscous liquid which crystallized upon standing to an impure, low melting solid (about 90 percent purity) of bis(p-methoxyphenyl)methyl methyl sulfoxide.

reactant | m-chloroperbenzoic acid | 0.014 mole, 2.4 grams | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | bis(p-methoxyphenyl)methyl methyl sulfide | 0.0125 mole, 3.4 grams | CSC(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C16H18O2S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | Bis(p-methoxyphenyl)methyl methyl sulfoxide | 3.8 grams, 105 percent yield | CS(=O)C(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C16H18O3S
